US09193693B2
Step 2. 3-(2-Bromophenyl)propan-1-amine
Into a 250-mL 3-necked round-bottom flask, was placed a solution of 3-(2-bromophenyl)propanenitrile (2.1 g, 10.00 mmol, 1.00 equiv) in tetrahydrofuran (20 mL). This was followed by the addition of borane (1 mol/L in THF, 50 mL, 5.00 equiv) dropwise with stiffing at 0° C. The resulting solution was stirred for overnight at room temperature. The reaction was then quenched by the addition of 50 mL of water at 0° C. and extracted with 3×50 mL of ethyl acetate. The organic layers were combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was dissolved in 30 mL of 6N aqueous hydrogen chloride. The aqueous solution was extracted with 30 mL of ethyl acetate and the aqueous layers were combined. The pH value of the aqueous solution was adjusted to 10 with 10% aqueous sodium hydroxide. The resulting solution was extracted with 3×50 mL of ethyl acetate. The organic layers were combined and dried over anhydrous sodium sulfate, concentrated under vacuum. This resulted in 1.3 g (58%) of 3-(2-bromophenyl)propan-1-amine as colorless oil.

reactant | 3-(2-bromophenyl)propanenitrile | 10.00 mmol, 2.1 g, 1.00 equiv | BrC1=C(C=CC=C1)CCC#N | C9H8BrN
reactant | borane | 1 mol/L, 50 mL, 5.00 equiv | B | BH3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(2-Bromophenyl)propan-1-amine | BrC1=C(C=CC=C1)CCCN | C9H12BrN
